US08754226B2
A solution of tert-butyl 1-(5-ethylpyrimidin-2-yl)piperidin-4-ylcarbamate (3.2 g, 10 mmol) in 50% TFA/CH2Cl2 (30 mL) was stirred at ambient temperature for 1 hour. The mixture was concentrated in vacuo. The residue was dissolved in EtOAc (200 mL) and washed with saturated sodium carbonate (200 mL) then brine. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to yield (1-(5-ethylpyrimidin-2-yl)piperidin-4-amine (2.2 g, 11 mmol, 100%). Mass spectrum (apci) m/z=207.1 (M+H).

reactant | tert-butyl 1-(5-ethylpyrimidin-2-yl)piperidin-4-ylcarbamate | 10 mmol, 3.2 g | C(C)C=1C=NC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H26N4O2
solvent | TFA CH2Cl2 | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 1-(5-ethylpyrimidin-2-yl)piperidin-4-amine | 11 mmol, 2.2 g, 100% | C(C)C=1C=NC(=NC1)N1CCC(CC1)N | C11H18N4
